US05707987
Sodium hydride (60% dispersion in mineral oil, 300 mg, 7.50 mmol) was added to a solution of phenol (710 mg, 7.54 mmol) in N,N-dimethylformamide (10 ml). The resulting reaction solution was stirred at room temperature for 30 minutes and then a solution of (2S,4R)-N-t-butoxycarbonyl-4-t-butyldimethylsiloxy-2-(mesyloxymethyl)pyrrolidine (2.05 g, 5.00 mmol) in N,N-dimethylformamide (5 ml) was added thereto. The resulting liquid mixture was stirred at 70° C. overnight. The reaction solution was poured into a liquid mixture of water with ethyl acetate. The organic layer was washed with 1N aqueous potassium hydrogensulfate and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and then concentrated in Vacuo. The resulting residue was subjected to silica gel column chromatography (Wakogel™ C-300, heptane-ethyl acetate=4:1→1:1) to give (2S,4R)-N-t-butoxycarbonyl-4-t-butyldimethylsiloxy-2-(phenoxymethyl)pyrrolidine (1.23 g, yield 60%) as a pale yellow oily substance.

reactant | Sodium hydride | 7.50 mmol, 300 mg | [H-].[Na+]
reactant | phenol | 7.54 mmol, 710 mg | C1(=CC=CC=C1)O | C6H6O
reactant | (2S,4R)-N-t-butoxycarbonyl-4-t-butyldimethylsiloxy-2-(mesyloxymethyl)pyrrolidine | 5.00 mmol, 2.05 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)COS(=O)(=O)C | C17H35NO6SSi
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,4R)-N-t-butoxycarbonyl-4-t-butyldimethylsiloxy-2-(phenoxymethyl)pyrrolidine | 1.23 g, yield 60% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)COC1=CC=CC=C1 | C22H37NO4Si
